US07253174B2
Synthesis of N-(2,2-Dimethyl-propyl)-N-methyl-N′-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenyl]-5-nitro-pyrimidine-4,6-diamine
A solution of (6-Chloro-5-nitro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-methyl-amine (185 mg, 0.72 mmol), diisopropylethylamine (0.13 mL, 0.72 mmol) and 2-Methyl-5-(4H-[1,2,4]triazol-3-yl)-phenylamine (126 mg, 0.72 mmol) in 3 mL of n-BuOH was heated with stirring at 80° C. for 18 h. The solvent was then evaporated in vacuo and the crude product was purified by flash chromatography to afford 87 mg of the product (30%). MS (m/z) calcd for C19H24N8O2 (MH+), 397.2, found, 397.3.

reactant | (6-Chloro-5-nitro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-methyl-amine | 0.72 mmol, 185 mg | ClC1=C(C(=NC=N1)N(C)CC(C)(C)C)[N+](=O)[O-] | C10H15ClN4O2
reactant | diisopropylethylamine | 0.72 mmol, 0.13 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Methyl-5-(4H-[1,2,4]triazol-3-yl)-phenylamine | 0.72 mmol, 126 mg | CC1=C(C=C(C=C1)C1=NN=CN1)N | C9H10N4
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | N-(2,2-Dimethyl-propyl)-N-methyl-N′-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenyl]-5-nitro-pyrimidine-4,6-diamine | 87 mg, 30% | CC(CN(C1=NC=NC(=C1[N+](=O)[O-])NC1=C(C=CC(=C1)C1=NN=CN1)C)C)(C)C | C19H24N8O2
